US04476132
A mixture of 300 ml of ethanol and 100 ml of 2N sodium hydroxide solution is added to 50 g of 6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester and the mixture is heated to 70° and maintained at that temperature for 1 hour. The ethanol is removed, the remaining mixture is diluted with water and extracted by shaking with ether, and the aqueous phase is separated off and acidified with concentrated hydrochloric acid. The precipitated crude product is filtered off and recrystallised from ethanol. 6-Butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid having a melting point of 249°-252.5° is obtained.

reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
reactant | 6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 50 g | C(C)OC(=O)C1=CNC2=CC(=C(C=C2C1=O)C(CCC)=O)C | C17H19NO4
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-Butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | C(CCC)(=O)C=1C=C2C(C(=CNC2=CC1C)C(=O)O)=O | C15H15NO4
